US07173022B2
4-Fluoro-2-(1H-1,2,4-triazol-1-yl)benzonitrile.
To a solution of 2,4-difluorobenzonitrile (10 g, 72 mmol), dissolved in THF (20 mL) and DMF (40 mL), was added 1,2,4-triazole sodium salt (6.3 g, 70 mmol) and the resulting mixture stirred at 90° C. for 3 h, after which it was filtered and concentrated. The remaining residue was adsorbed onto silica gel and purified by flash column chromatography eluting with 0%–30% ethyl acetate/hexanes to give the title compound as colorless needles (2.46 g, 18% yield). 1H NMR (500 MHz, CDCl3) δ ppm: 8.89 (1H, s), 8.19 (1H, s), 7.85 (1H, dd, J=8.7, 5.6 Hz), 7.60 (1H, dd, J=8.8, 2.4 Hz), 7.28–7.24 (1H, m). LCMS (M+H) calcd for C9H6N4F: 189.05; found: 189.13.

reactant | 2,4-difluorobenzonitrile | 72 mmol, 10 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | 1,2,4-triazole sodium salt | 70 mmol, 6.3 g | [Na].N1N=CN=C1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-Fluoro-2-(1H-1,2,4-triazol-1-yl)benzonitrile | 2.46 g, 18% yield | FC1=CC(=C(C#N)C=C1)N1N=CN=C1 | C9H5FN4
